US07241785B2
To a solution of 3-ethoxy-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl alcohol (4.38 g) in toluene (80 ml) was added dropwise thionyl chloride (1.69 g) at room temperature. After stirring for 90 min, ethyl acetate (100 ml) was added to the reaction mixture and the mixture was washed with aqueous sodium bicarbonate and then with water. The organic layer was dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and the crystals obtained from the fraction eluted with ethyl acetate-hexane (1:4, volume ratio) were recrystallized from ethyl acetate-hexane to give 4-(3-chloromethyl-5-ethoxyphenoxymethyl)-5-methyl-2-phenyloxazole (4.25 g, 92%) as colorless prism crystals. melting point: 86–87° C.

reactant | 3-ethoxy-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl alcohol | 4.38 g | C(C)OC=1C=C(CO)C=C(C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C20H21NO4
reactant | thionyl chloride | 1.69 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3-chloromethyl-5-ethoxyphenoxymethyl)-5-methyl-2-phenyloxazole | 4.25 g, 92% | ClCC=1C=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C(C1)OCC | C20H20ClNO3
